US05292719
A mixture of methyl-1-(2-methyl-2-propenyl)-2-oxo-1-cyclopentanecarboxylate (78.4 g), HMPA (hexamethylphosphoramide, 250 ml) and LiCl (34 g) is heated to 73° C. for 36 hrs. Extraction (3 times, ether/water) of the reaction product provides a brown oil which, upon fractional distillation (63° C.-75° C./5.32×102Pa), yields 2-(2-methyl-2-propenyl)-1-cyclopentanone.

reactant | methyl-1-(2-methyl-2-propenyl)-2-oxo-1-cyclopentanecarboxylate | 78.4 g | COC(=O)C1(C(CCC1)=O)CC(=C)C | C11H16O3
reactant | LiCl | 34 g | [Li+].[Cl-]
solvent | HMPA | 250 ml | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
product | 2-(2-methyl-2-propenyl)-1-cyclopentanone | CC(CC1C(CCC1)=O)=C | C9H14O
